US05190959
The procedure of Example 36 (a) was repeated except for using di(3-thienyl)methyl chloride and 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine instead of phenyl-2-thienylmethyl chloride and 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine to give 4-di(3-thienyl)methoxy-1-[3-(2-nitrophenoxy)propyl]piperidine hydrochloride.

reactant | di(3-thienyl)methyl chloride | S1C=C(C=C1)C(C1=CSC=C1)Cl | C9H7ClS2
reactant | 4-hydroxy-1-[3-(2-nitrophenoxy)propyl]piperidine | OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-] | C14H20N2O4
product | 4-di(3-thienyl)methoxy-1-[3-(2-nitrophenoxy)propyl]piperidine hydrochloride | Cl.S1C=C(C=C1)C(OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-])C1=CSC=C1 | InChI=1S/C23H26N2O4S2.ClH/c26-25(27)21-4-1-2-5-22(21)28-13-3-10-24-11-6-20(7-12-24)29-23(18-8-14-30-16-18)19-9-15-31-17-19;/h1-2,4-5,8-9,14-17,20,23H,3,6-7,10-13H2;1H
